US07662830B2
1. 4-[2-Chloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester
To a mixture of 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine (0.12 mol) and NaHCO3 (1.95 g, 0.023 mol) in EtOH at 0° C., add piperazine-l-carboxylic acid tert-butyl ester (0.013 mol). Remove the ice bath and stir at room temperature for 16 h. Concentrate under reduced pressure and partition between EtOAc and brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure to give the title compound.

reactant | 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine | 0.12 mol | ClC1=NC(=CC(=N1)Cl)C1=CC(=C(C=C1)F)Cl | C10H4Cl3FN2
reactant | NaHCO3 | 0.023 mol, 1.95 g | C(=O)(O)[O-].[Na+]
reactant | piperazine-l-carboxylic acid tert-butyl ester | 0.013 mol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | EtOH | CCO | C2H6O
product | 4-[2-Chloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)Cl | C19H21Cl2FN4O2
